US08563617B2
274.2 N-{3-[8-(4-Chlorobenzyl)-7-(diethylamino)-5,6,7,8-tetrahydronaphthalen-2-yl]propyl}-1-cyclopropylmethanesulfonamide hydrochloride
N-(3-(7-Amino-8-(4-chlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yl)propyl)-1-cyclopropylmethanesulfonamide (49 mg, 0.11 mmol) was dissolved in dichloromethane (2 mL). Acetic acid (7 μL, 0.11 mmol) was added followed by acetaldehyde (18 μL, 0.322 mmol) in dichloromethane (2 mL) and sodium triacetoxyborohydride (34 mg, 0.16 mmol). The reaction mixture was stirred at room temperature for 2 h. The reaction mixture was diluted with dichloromethane (20 mL) and washed with water (2×10 mL). The organic layer was dried (MgSO4) and the solvent was evaporated in vacuo. The crude product was purified by flash chromatography (silica gel, dichloromethane, methanol). The amine was dissolved in dichloromethane (3 mL) and excess hydrochloric acid in ethanol was added. The solvents were evaporated and the product dried in vacuo. Yield: 22 mg (0.041 mmol, 38%).

reactant | N-(3-(7-Amino-8-(4-chlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yl)propyl)-1-cyclopropylmethanesulfonamide | 0.11 mmol, 49 mg | NC1CCC=2C=CC(=CC2C1CC1=CC=C(C=C1)Cl)CCCNS(=O)(=O)CC1CC1 | C24H31ClN2O2S
reactant | Acetic acid | 0.11 mmol, 7 μL | C(C)(=O)O | C2H4O2
reactant | acetaldehyde | 0.322 mmol, 18 μL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 0.16 mmol, 34 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-{3-[8-(4-Chlorobenzyl)-7-(diethylamino)-5,6,7,8-tetrahydronaphthalen-2-yl]propyl}-1-cyclopropylmethanesulfonamide hydrochloride | Cl.ClC1=CC=C(CC2C(CCC=3C=CC(=CC23)CCCNS(=O)(=O)CC2CC2)N(CC)CC)C=C1 | InChI=1S/C28H39ClN2O2S.ClH/c1-3-31(4-2)28-16-13-24-12-9-21(6-5-17-30-34(32,33)20-23-7-8-23)18-26(24)27(28)19-22-10-14-25(29)15-11-22;/h9-12,14-15,18,23,27-28,30H,3-8,13,16-17,19-20H2,1-2H3;1H
